US03946000
A mixture of 0.60 g. (0.0047 mole) of 3-hydroxy-6-mercaptopyridazine, 1.27 g. (0.0047 mole) of 7-aminocephalosporanic acid, 0.78 g. (0.0094 mole) of sodium bicarbonate in 25 ml. of 0.1 M phosphate buffer (pH 6.4) was heated at 60° C. for 5 hours. The reaction mixture was filtered to remove a trace of insoluble material and the filtrate was adjusted to pH 5 with acetic acid to give brown precipitates, which were collected by filtration, washed with water and acetone successively and dried in vacuo to give 7-amino-3-(6-hydroxypyridazin-3-ylthiomethyl)-3-cephem-4-carboxylic acid; 1.03 g. (71%). M.p. 290°-300° C. (decomp.).

reactant | 3-hydroxy-6-mercaptopyridazine | 0.0047 mole | OC=1N=NC(=CC1)S | C4H4N2OS
reactant | 7-aminocephalosporanic acid | 0.0047 mole | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C10H12N2O5S
reactant | sodium bicarbonate | 0.0094 mole | C([O-])(O)=O.[Na+]
reactant | phosphate | 0.1 M, pH 6.4 | P(=O)([O-])([O-])[O-]
product | 7-amino-3-(6-hydroxypyridazin-3-ylthiomethyl)-3-cephem-4-carboxylic acid | NC1[C@@H]2N(C(=C(CS2)CSC=2N=NC(=CC2)O)C(=O)O)C1=O | C12H12N4O4S2
